US04029816
To a freshly prepared solution of 2-iodo-4-(1,1-dimethylethyl)phenol (5.5 g., 0.02 mole) in a mixture of acetic acid (27 ml.) and sulfuric acid (3 ml.) is added powdered 2-chloro-N-(hydroxymethyl)acetamide (2.5 g., 0.02 mole) with stirring at 20° C. over a 10 minute period. After 2.5 hours the orange solution is poured into water (200 ml.). The 2-chloro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)benzyl]-acetamide which precipitates is collected, dried by suction and dissolved in ethanol (75 ml.). Concentrated hydrochloric acid (15 ml.) is added and the mixture is refluxed for two hours. The mixture is concentrated to one-half its original volume and allowed to cool. The resulting precipitate (1.4 g.), which is unhydrolyzed 2-chloro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)benzyl]acetamide, is collected. The filtrate is concentrated to 25 ml. and, upon cooling, crude 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride (4 g.) separates which upon crystallization from a mixture of ethanol and ether affords substantially pure 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride (2.5 g.), m.p. 200°-201° (dec.).

reactant | 2-iodo-4-(1,1-dimethylethyl)phenol | 0.02 mole, 5.5 g | IC1=C(C=CC(=C1)C(C)(C)C)O | C10H13IO
reactant | 2-chloro-N-(hydroxymethyl)acetamide | 0.02 mole, 2.5 g | ClCC(=O)NCO | C3H6ClNO2
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride | 2.5 g | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | InChI=1S/C11H16INO.ClH/c1-11(2,3)8-4-7(6-13)10(14)9(12)5-8;/h4-5,14H,6,13H2,1-3H3;1H
